US09403835B2
Step 1: 3-(2-formyl-phenoxymethyl)-azetidine-1-carboxylic acid tert-butyl ester
A mixture of 2-fluoro-benzaldehyde (0.85 mL; 8.06 mmol; 1 eq.), 3-hydroxymethyl-azetidine-1-carboxylic acid tert-butyl ester (1.66 g; 8.86 mmol; 1.1 eq.) and K2CO3 (2.23 g; 16.11 mmol; 2 eq.) in DMF (20 mL) was stirred at 120° C. for 7 days. The reaction mixture was diluted with sat. aq. NaHCO3 and extracted with DCM (2×). The combined organic layer was washed with brine (2×), dried over magnesium sulfate and concentrated in vacuo. Purification by column chromatography (heptane/EA, 95/5 to 60/40) afforded the title compound (810 mg, 35%) as a white solid. HPLC (max plot) 96.2%; Rt 4.15 min.

reactant | 2-fluoro-benzaldehyde | 8.06 mmol, 0.85 mL, 1 eq. | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | 3-hydroxymethyl-azetidine-1-carboxylic acid tert-butyl ester | 8.86 mmol, 1.66 g, 1.1 eq. | C(C)(C)(C)OC(=O)N1CC(C1)CO | C9H17NO3
reactant | K2CO3 | 16.11 mmol, 2.23 g, 2 eq. | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 3-(2-formyl-phenoxymethyl)-azetidine-1-carboxylic acid tert-butyl ester | 810 mg, 35% | C(C)(C)(C)OC(=O)N1CC(C1)COC1=C(C=CC=C1)C=O | C16H21NO4
